US08003785B2
A mixture of 0.08 g (0.32 mmole) of 2-chloro-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-292), 0.093 g (0.35 mmole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.092 g (0.48 mmole) of p-toluenesulfonic acid monohydrate and 4 mL of isopropanol was heated in pressure tube at 120 degrees overnight. After cooling, dichloromethane and saturated sodium carbonate were added. The mixture was extracted twice with dichloromethane. The combined organic layers were washed three times with sodium carbonate, times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by C18 reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient, 10:90-100:0) to gave 0.051 g of give 4-(7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-303) as a white solid.

reactant | 2-chloro-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.32 mmole, 0.08 g | ClC=1N=CC2=C(NCC(C(N2C)=O)(F)F)N1 | C8H7ClF2N4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.35 mmole, 0.093 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.48 mmole, 0.092 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | 4-(7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.051 g | FC1(C(N(C2=C(NC1)N=C(N=C2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC)C)=O)F | C22H27F2N7O3
